US04049668
A 500 ml one-necked flask fitted with a Dean Stark trap was charged with 36.4 g (0.2 m) of 2,2,3,4,4,4-hexafluorobutanol, 53.0 g (0.2 m) of 11-bromoundecanoic acid, 0.5 g methane sulfonic acid and 100 ml of dry benzene. The reaction mixture was refluxed until the theoretical amount of water, 3.6 ml, was removed. The reaction mixture was washed with a 10% sodium carbonate solution. The benzene was removed under vacuum giving 2,2,3,4,4,4-hexafluorobutyl 11-bromoundecylate. IR analysis showed the following major absorption bands: 2930, 2860, 1760, 1190, 1110 cm-1.

reactant | 2,2,3,4,4,4-hexafluorobutanol | 36.4 g | FC(CO)(C(C(F)(F)F)F)F | C4H4F6O
reactant | 11-bromoundecanoic acid | 53.0 g | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | methane sulfonic acid | 0.5 g | CS(=O)(=O)O | CH4O3S
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2,2,3,4,4,4-hexafluorobutyl 11-bromoundecylate | BrCCCCCCCCCCC(=O)OCC(C(C(F)(F)F)F)(F)F | C15H23BrF6O2
